US07923450B2
b) [4-(2-Ethyl-oxazol-5-yl)-phenyl]-(4-phenyl-4,5,6,7-tetrahydro-benzothiazol-2-yl)-amine
A solution of [4-(2-ethyl-oxazol-5-yl)-phenyl]-thiourea (124 mg, 0.50 mmol) and 2-bromo-6-phenyl-cyclohexanone (139 mg, 0.55 mmol) in ethanol (5 ml) was heated to reflux over night. The solvent was evaporated under reduced pressure and the residue was purified by column chromatography on silica gel using methylene chloride and methylene chloride/methanol (19:1 v/v) as eluent to yield the title compound (170 mg, 85%) as a brown solid. MS ISP (m/e): 402.3 (100) [(M+H)+]. 1H NMR (DMSO-D6, 300 MHz): δ (ppm)=10.18 (br s, 1H, NH), 7.49 (s, 4H), 7.26-7.30 (m, 3H), 7.19 (t, 1H), 7.12 (d, 1H), 4.05 (m, 1H), 2.77 (q, 2H), 2.75 (m, 2H), 2.12 (m, 1H), 1.70-1.88 (m, 3H), 1.25 (t, 3H).

reactant | [4-(2-ethyl-oxazol-5-yl)-phenyl]-thiourea | 0.50 mmol, 124 mg | C(C)C=1OC(=CN1)C1=CC=C(C=C1)NC(=S)N | C12H13N3OS
reactant | 2-bromo-6-phenyl-cyclohexanone | 0.55 mmol, 139 mg | BrC1C(C(CCC1)C1=CC=CC=C1)=O | C12H13BrO
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | [4-(2-Ethyl-oxazol-5-yl)-phenyl]-(4-phenyl-4,5,6,7-tetrahydro-benzothiazol-2-yl)-amine | 170 mg, 85% | C(C)C=1OC(=CN1)C1=CC=C(C=C1)NC=1SC2=C(N1)C(CCC2)C2=CC=CC=C2 | C24H23N3OS
